Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
io___
 
Attending: ___.
 
Chief Complaint:
Left hip pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with a PMH of dementia, COPD, hypothyroid, ___ s/p 
chemoradiation who presents with left acetabullar fracture. 

History per ED report as patient cannot recall events that 
brought her to the hospital. 

Per ED report, pt was in bed earlier tonight. She reached over 
to pick up the phone and then fell onto her left buttocks 
causing severe pain. She was taken by ambulance to ___ 
where imaging showed a possible compression fracture of the left 
femoral head possibly involving the acetabulum as well.

In the ED, initial VS were: ___ pain 98.4 77 126/71 18 99% RA 

___ Labs Notable for: 
1) WBC 12.6, 75% PMN
2) BMP: Na 140, K 4.2, BUN 27, Cr 1.13

Imaging showed:
1) CXR: Left lung base atelectasis. Chronic right superior
paramediastinal opacity (Possibly radiation sequel), seen on
prior CTA 
2) MRI prelim: Left superior pubic rami edema both medially and
laterally, left iliac wing non-displaced fractures. 4.9 x 2.2 cm
left lateral bladder wall adjacent small hematoma. Possible
avascular necrosis of left femoral head
3) EKG: Sinus rhythm, normal axis, normal intervals. No ischemic
ST changes. Early R wave progression. 

Received:
___ 02:57 IV Morphine Sulfate 4 mg
___ 03:00 IVF  NS   Started 150 mL/hr 
___ 03:23 IV Ondansetron 4 mg  
___ 05:37 PO/NG Levothyroxine Sodium 100 mcg   
___ 09:03 IV Morphine Sulfate 4 mg  M  
___ 14:13 PO TraMADol 50 mg 
___ 14:13 PO/NG Acetaminophen 1000 mg 

The following teams were consulted:
1) Orthopedics: weight bearing as tolerated. F/u with Dr. ___ 
in 2 weeks
2) ___: Cleared for home with home ___ 

ED Course: Pt desatted to high ___ while walking. Denies CP/SOB.

 
Past Medical History:
Non-small cell lung cancer (dx ___ s/p chemoradiation)
Hypothyroidism  
Cholecystectomy in ___  
Depression  
Hyperlipidemia  
Right total knee replacement  
GERD  
Overactive bladder  
COPD
Dementia
Left IMN for femur fracture, ___
Urinary incontinence 
Pessary

 
Social History:
___
Family History:
Her mother had "lung problems"  

 
Physical Exam:
ADMISSION EXAM
==============
VS: 97.6 PO 174 / 75 67 18 96 RA  
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MM
dry
NECK: supple, no LAD, no JVD  
HEART: RRR, S1+ S2, ___ SEM loudest LUSB  
LUNGS: CTAB, no wheezes/crackles, breathing comfortably on RA 
ABDOMEN: SNTND, +BS, no rebound/guarding
EXTREMITIES: WWP, no ___ edema, PPP
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: no rashes/lesions  

DISCHARGE EXAM
===============
VS: 97.9, HR 69, BP 140/71, RR 18, 94% RA
GENERAL: NAD, pleasant older female resting in bed
HEENT: AT/NC, EOMI
HEART: RRR, S1+ S2, +systolic murmur 
LUNGS: CTAB, no wheezes/crackles, breathing comfortably on RA
ABDOMEN: soft, NT, ND, +BS, no rebound/guarding
EXTREMITIES: WWP, no ___ edema, peripheral pulses intact.  LLE 
with limited active ROM at hip due to pain.  Knees with normal 
ROM
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: No rashes or lesions  
 
Pertinent Results:
ADMISSION LABS
==============
___ 02:37AM BLOOD WBC-10.7* RBC-3.60* Hgb-10.7* Hct-33.1* 
MCV-92 MCH-29.7 MCHC-32.3 RDW-13.7 RDWSD-46.4* Plt ___
___ 02:37AM BLOOD Neuts-74.6* Lymphs-15.6* Monos-8.1 
Eos-0.6* Baso-0.4 Im ___ AbsNeut-7.96* AbsLymp-1.66 
AbsMono-0.86* AbsEos-0.06 AbsBaso-0.04
___ 02:37AM BLOOD ___ PTT-27.2 ___
___ 02:37AM BLOOD Plt ___
___ 02:37AM BLOOD Glucose-119* UreaN-26* Creat-1.0 Na-139 
K-4.2 Cl-99 HCO3-26 AnGap-14
___ 02:37AM BLOOD GreenHd-HOLD

NOTABLE LABS
============
___ 06:06AM BLOOD 25VitD-27*

MICRO
=====
___ URINE URINE CULTURE-FINAL EMERGENCY WARD 

IMAGING
=======
___ CXR
IMPRESSION:  
Subsegmental atelectasis left lung base.  No focal infiltrate.  
Chronic right 
superior paramediastinal opacity, probably sequela of prior 
radiation, seen on 
prior CTA chest. 

___ MRI PELVIS (Wet Read)
IMPRESSION:  
1. Limited evaluation due to susceptibility artifact from left 
hip hardware and motion. 
2. Given this limitation there is edema within the left superior 
pubic rami both medially and laterally, and left iliac wing with 
nondisplaced fractures (3:6, 24). 
3. 4.9 x 2.2 cm heterogeneously T1 hyperintense, T2 hyperintense 
area 
adjacent to the left lateral bladder wall, most consistent with 
small 
hematoma. 
4. Severe flattening of the left femoral head with T1 
hypointensity mild 
edema concerning for avascular necrosis with subchondral 
collapse. No 
dislocation.
 
Brief Hospital Course:
___ with a PMH of dementia, COPD, hypothyroidism, ___ s/p 
chemoradiation, who presented with acute-to-subacute left 
acetabullar fracture.  She was admitted for hypoxia but this 
quickly resolved without intervention.

ACUTE ISSUES
============
# Acute stable pelvic fractures (L ilium and rami):  Seen by 
Ortho, who recommended non-operative management, WBAT, ROMAT. 
Seen by ___ who recommended rehab, but the patient's daughter 
preferred to return to ECF with 24-hour assistance (which she 
arranged herself once knowing the timing of the discharge plan) 
and home ___.  Pain control with Tylenol 1g TID standing, and 
home PRN Tramadol for breakthrough. F/u with Ortho Dr. ___ in 
___ weeks.

# Elevated BUN:  BUN 26 on admission.  Likely mildly dehydrated. 
 Improved with more PO intake.  Need to continue to encourage PO 
intake after discharge.

# Abdominal Hematoma: Incidental 4.9 x 2.2 cm left lateral 
bladder wall adjacent small hematoma. No abdominal pain or 
abdominal bruising noted no exam. VSS. Was not anemic, and in 
fact, Hgb trended up.

# Hypoxia:  Possibly ___ atelectasis, COPD, and prior lung 
radiation. Pt had desaturation to high ___ while walking in ED. 
Of note, had hypoxia while hospitalized at ___ with episode 
of PNA (last year). Not on home O2.  Resolved without 
intervention.

# Disposition:  The official team recommendation was to go to 
Rehab.  However, the patient's daughter preferred to have the 
patient go back to her assisted living, and she agreed to set up 
100% round-the-clock supervision at the ___.

CHRONIC ISSUES
==============
# Dementia: Continued home Donepezil.

# Hypothyroidism: Continued home levothyroxine 112mcg.

# GERD:  Continued home omeprazole 20 mg PO QD.

# Anxiety/Depression: Continued home Mirtazipine.

# Osteoporosis: Continued vitamin D3, but increased dose from 
1000 to 2000U daily given low serum level (27).  Continued 
calcium carbonate.

TRANSITIONAL ISSUES
===================
[ ] Orthopedics follow-up at ___ with Dr. ___ in ___ weeks
[ ] Pain control:  continue home Tramadol as needed. Added 1g 
TID Tylenol standing for first line
[ ] Increase Vitamin D from 1000 to ___ units daily
[ ] Consider outpatient bisphosphonate therapy given low vitamin 
D, and falls with fracture
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Levothyroxine Sodium 112 mcg PO DAILY 
2. Omeprazole 20 mg PO DAILY 
3. Oxybutynin 10 mg PO QD 
4. Calcium Carbonate 500 mg PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 
6. TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
7. Donepezil 10 mg PO QHS 
8. Mirtazapine 15 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth three times daily 
Disp #*180 Tablet Refills:*0 
2.  Vitamin D ___ UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 2,000 unit 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
3.  Calcium Carbonate 500 mg PO DAILY  
4.  Donepezil 10 mg PO QHS  
5.  Levothyroxine Sodium 112 mcg PO DAILY  
6.  Mirtazapine 15 mg PO QHS  
7.  Omeprazole 20 mg PO DAILY  
8.  Oxybutynin 10 mg PO QD  
9.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate  
10.Rolling Walker
Dx: Acetabular fracture S32.4
Px: Good
___: 13 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute stable pelvic fractures (L ilium and rami)
 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital after hip pain. You were found 
to have a pelvis fracture, but the orthopedic surgeons didn't 
feel you needed surgery; you will follow up with them in clinic.

Our physical therapists thought it safest that you go to a rehab 
facility for a little while to regain your strength and 
coordination.  However, because you have 24-hour care set up at 
home, we will plan to discharge you back to assisted living, 
with outpatient physical therapy and 24-hour care.

Your oxygen levels were a bit low in the emergency room, but 
they improved after you were admitted.

It was a privilege to care for you in the hospital, and we wish 
you all the best.

Sincerely,

Your ___ Health Team
 
Followup Instructions:
___